US04342771
5-Hydroxy-5-(1-methyl-2-pyrrolyl)-2,4,6-(1H,3H,5H)pyrimidinetrione
Alloxan hydrate (3.2 g., 0.02 mole) was dissolved in 50 ml. of ethanol by warming. 1-Methylpyrrole (1.6 g., 0.02 mole) was added and the mixture warmed for 5 minutes on a steam bath, while perfusing with hydrogen chloride. After standing at room temperature for 0.5 hour, the reaction mixture was evaporated to dryness and the residue triturated with water to yield title product as a solid [2.9 g.; m/e 223; Rf 0.5 (1:1 ethyl acetate:hexane/5% acetic acid)].

reactant | Alloxan hydrate | 0.02 mole, 3.2 g | O.N1C(=O)NC(=O)C(=O)C1=O
reactant | 1-Methylpyrrole | 0.02 mole, 1.6 g | CN1C=CC=C1 | C5H7N
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-Hydroxy-5-(1-methyl-2-pyrrolyl)-2,4,6-(1H,3H,5H)pyrimidinetrione | 2.9 g, 5% | OC1(C(NC(NC1=O)=O)=O)C=1N(C=CC1)C | C9H9N3O4
